US07265149B2
In analogy to the procedure described for example 3 c], (6-hydroxy-indol-1-yl)-acetic acid ethyl ester (example 2 e]) was reacted with [5-(4-fluoro-3-trifluoromethyl-phenyl)-2-methyl-2H-pyrazol-3-yl]-methanol in the presence of N,N,N′,N′-tetramethyl azodicarboxamide and tributylphosphine to give {6-[5-(4-fluoro-3-trifluoromethyl-phenyl)-2-methyl-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester as white solid.

reactant | (6-hydroxy-indol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)O)=O | C12H13NO3
reactant | [5-(4-fluoro-3-trifluoromethyl-phenyl)-2-methyl-2H-pyrazol-3-yl]-methanol | FC1=C(C=C(C=C1)C=1C=C(N(N1)C)CO)C(F)(F)F | C12H10F4N2O
reactant | N,N,N′,N′-tetramethyl azodicarboxamide | CN(C(=O)N=NC(=O)N(C)C)C | C6H12N4O2
reactant | tributylphosphine | C(CCC)P(CCCC)CCCC | C12H27P
product | {6-[5-(4-fluoro-3-trifluoromethyl-phenyl)-2-methyl-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)OCC=1N(N=C(C1)C1=CC(=C(C=C1)F)C(F)(F)F)C)=O | C24H21F4N3O3
